US07022725B2
A mixture of ethyl 4-aminophenylacetate (0.32 g), 3-[5-(4-chlorophenyl)-4-isoxazolyl]propionic acid (0.37 g), 1-hydroxy-1H-1,2,3-benzotriazole hydrate (0.28 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.35 g) and N,N-dimethylformamide (15 ml) was stirred at room temperature overnight. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and N-(4-ethoxycarbonylmethylphenyl)-3-[5-(4-chlorophenyl)-4-isoxazolyl]propionamide (0.56 g, yield 93%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 117–118° C.

reactant | ethyl 4-aminophenylacetate | 0.32 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | 3-[5-(4-chlorophenyl)-4-isoxazolyl]propionic acid | 0.37 g | ClC1=CC=C(C=C1)C1=C(C=NO1)CCC(=O)O | C12H10ClNO3
reactant | 1-hydroxy-1H-1,2,3-benzotriazole hydrate | 0.28 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.35 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(4-ethoxycarbonylmethylphenyl)-3-[5-(4-chlorophenyl)-4-isoxazolyl]propionamide | 0.56 g, yield 93% | C(C)OC(=O)CC1=CC=C(C=C1)NC(CCC=1C=NOC1C1=CC=C(C=C1)Cl)=O | C22H21ClN2O4
